** Spice model for LS844
**
.subckt LS844 G1 D1 S1 G2 D2 S2
J1 D1 G1 S1 LS84x
J2 D2 G2 S2 LS84x
.model LS84x NJF level=1
+ Beta=1.47m Betatce=-.5 Rd=11 Rs=12 Lambda=9.12m
+ Vto=-3.25 Vtotc=-2.5m Is=1.77f Xti=0 Cgd=1p
+ M=0.5 Pb=0.8 Fc=0.5 Cgs=1p Kf=0 Af=1
.ends
