** dual mmbt2222 in a SOT−363, pins:
**  1: Q2 emitter
**  2: Q2 base
**  3: Q1 collector
**  4: Q1 emitter
**  5: Q1 base
**  6: Q2 collector
.subckt MBT2222ADW1 E2 B2 C1 E1 B1 C2
.include external/mmbt2222alt1.lib
Q1 C1 B1 E1 Qmmbt2222alt1g
Q2 C2 B2 E2 Qmmbt2222alt1g
.ends
