***********************************************************
*
* NMB2227A
*
* Nexperia
*
* General purpose double NPN/PNP Transistor
* IC   = 600mA each
* VCEO = 40V / 60V 
* hFE  = 100 - 300 @ 10V/150mA each
* 
* 
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 457
* 
* Package Pin 5;2: Emitter   TR1;TR2 
* Package Pin 1;3: Base      TR1;TR2
* Package Pin 6;4: Collector TR1;TR2
*
*
* Extraction date (week/year): 25/2014 (TR1) / 28/2014 (TR2)
* Spicemodel includes temperature dependency
*
**********************************************************
* #
* Please note: Diode D1 is dedicated to improve modeling in  reverse 
* area of operation and does not reflect a physical device.
*
.SUBCKT NMB2227A B1 E2 B2 C2 E1 C1

.SUBCKT NMB2227A_NPN 1 2 3
Q1 1 2 3 MAIN
D1 2 1 DIODE
*
.MODEL MAIN NPN
+ IS = 1.718E-014
+ NF = 0.9872
+ ISE = 5.598E-015
+ NE = 1.415
+ BF = 231
+ IKF = 0.774
+ VAF = 47.16
+ NR = 0.985
+ ISC = 1.754E-016
+ NC = 1.182
+ BR = 4.5
+ IKR = 0.01941
+ VAR = 11.97
+ RB = 120
+ IRB = 0.001
+ RBM = 6.2
+ RE = 0.04575
+ RC = 0.3532
+ XTB = 1.679
+ EG = 1.11
+ XTI = 5.305
+ CJE = 3.431E-011
+ VJE = 0.6681
+ MJE = 0.2959
+ TF = 3.7E-010
+ XTF = 25
+ VTF = 2
+ ITF = 0.18
+ PTF = 0
+ CJC = 1.046E-011
+ VJC = 0.4009
+ MJC = 0.3151
+ XCJC = 1
+ TR = 8.5E-008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 2.018E-012
+ N = 1.111
+ BV = 1000
+ IBV = 0.001
+ RS = 341.5
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
.SUBCKT NMB2227A_PNP 1 2 3
Q1 1 2 3 MAIN
*
.MODEL MAIN PNP
+ IS = 1.897E-014
+ NF = 1.004
+ ISE = 4.178E-015
+ NE = 1.428
+ BF = 176
+ IKF = 1.442
+ VAF = 13.24
+ NR = 1.002
+ ISC = 2.178E-015
+ NC = 1.087
+ BR = 20.38
+ IKR = 0.7727
+ VAR = 22.7
+ RB = 39
+ IRB = 9.5E-005
+ RBM = 3.024
+ RE = 0.148
+ RC = 0.1756
+ XTB = 1.344
+ EG = 1.11
+ XTI = 1.707
+ CJE = 4.496E-011
+ VJE = 0.7048
+ MJE = 0.3198
+ TF = 1.046E-009
+ XTF = 5.967
+ VTF = 2.011
+ ITF = 0.8587
+ PTF = 0
+ CJC = 1.444E-011
+ VJC = 0.8453
+ MJC = 0.4279
+ XCJC = 1
+ TR = 2.2E-008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.79
.ENDS

XQ1A C1 B1 E1 NMB2227A_NPN
XQ1B C2 B2 E2 NMB2227A_PNP
.ENDS
*
