** BAT54S is a dual schottky diode package with two diodes in series:
**  pin1: anode of the first one,
**  pin2: cathode of the second one
**  pin3: center (cathode of first, anode of second)
** KiCad calls this "Dual_Series_AKC"
** presumably for Anode/Kathode/Center ??
**
.subckt BAT54S A K C
D1 A C DBAT54WT1
D2 C K DBAT54WT1
.include external-sim/BAT54WT1.REV2.LIB
.ends

