** MMBD1203 is a dual diode package with two diodes in series:
**  pin1: anode of the first one,
**  pin2: cathode of the second one
**  pin3: center (cathode of first, anode of second)
** KiCad calls this "Dual_Series_AKC"
** presumably for Anode/Kathode/Center ??
**
.subckt MMBD1203 A K C
D1 A C MMBD1203MODEL
D2 C K MMBD1203MODEL
.model MMBD1203MODEL  D(Is=10E-15 Rs=1.0 CJO=1.3p Tt=12n Bv=70 Ibv=0.1p)
.ends

